US07115769B2
2(R)-(9H-Fluoren-9-ylmethoxycarbonylamino)-3-tritylsulfanyl-propionic acid is reacted with t-butyl alcohol and dicyclohexyl carbodiimide (DCC) in 4-(dimethylamino) pyridine (DMAP) and tetrahydrofuran (THF) at room temperature to form 2(R)-(9H-fluoren-9-ylmethoxycarbonylamino)-3-tritylsulfanyl-propionic acid tert-butyl ester.

reactant | 2(R)-(9H-Fluoren-9-ylmethoxycarbonylamino)-3-tritylsulfanyl-propionic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H31NO4S
reactant | t-butyl alcohol | C(C)(C)(C)O | C4H10O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(dimethylamino) pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2(R)-(9H-fluoren-9-ylmethoxycarbonylamino)-3-tritylsulfanyl-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C41H39NO4S
